US09402841B2
Step E: methyl 8-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carboxylate
To a solution of (Z)-methyl 2-methoxy-6-((5-oxo-2-phenyloxazol-4(5H)-ylidene)methyl)benzoate (4.2 g, 12.45 mmol) in MeOH (50 mL) was added KOH (2.1 g, 37.35 mmol). The reaction mixture was heated to reflux for 1 hour. The solvent was subsequently removed and the residue was partitioned between water (30 mL) and EtOAc (20 mL). The aqueous layer was extracted with EtOAc (3×20 mL). The organic layers were combined, concentrated in vacuo, adjusted to pH=3 with a 4M solution of HCl in MeOH, and concentrated. The resulting brown solid which was purified by column chromatography eluting with petroleum ether and ethyl acetate (PE/EtOAc=5:1-1:1 gradient) to give the title compound (1 g, 26.3% over 2 steps). 1H NMR (400 MHz, CDCl3) δ ppm 8.55 (s, 1H), 7.58 (t, 1H, J=8.0 Hz), 7.12 (d, 1H, J=8.0 Hz), 6.97 (d, 1H, J=8.0 Hz), 6.67 (s, 1H), 4.01 (s, 3H).

reactant | (Z)-methyl 2-methoxy-6-((5-oxo-2-phenyloxazol-4(5H)-ylidene)methyl)benzoate | 12.45 mmol, 4.2 g | COC1=C(C(=O)OC)C(=CC=C1)\C=C\1/N=C(OC1=O)C1=CC=CC=C1 | C19H15NO5
reactant | KOH | 37.35 mmol, 2.1 g | [OH-].[K+]
solvent | MeOH | 50 mL | CO | CH4O
product | methyl 8-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carboxylate | 1 g, 26.3% | COC=1C=CC=C2C=C(NC(C12)=O)C(=O)OC | C12H11NO4
